US05250679
A solution of 1-aminopropylene (10.6 grams, 0.186 mol) in methanol was added to a methanolic solution of 3-phenylpropyleneoxide (5.07 grams, 0.037 mol) and the mixture heated to reflux for 30 minutes. The mixture was allowed to warm to room temperature and concentrated in vacuo to yield 7.2 grams (99%) of N-allyl-3-phenyl-2-hydroxypropylamine. 1H NMR (CDCl3, dTMS) 7.34-7.18 (5H, m, Ar-H), 5.84 (1H, ddt, 3JHH =17.1 Hz, 3JHH =10.2 Hz, 3JHH =6 Hz, CH2CH), 5.2-5.0 (2H, m, CH=CH2), 3.86 (1H, m, CHOH), 3.19 (2H, m, NCH2CH=CH2), 2.76-2.66 (3H, m, NCH2CH(OH)CHHPh), 2.50 (1H, dd 2JHH =12 Hz, 3JHH =9 Hz). 13C NMR (CDCl3) 138.4, 136.5, 129.3, 128.4, 126.3, 116.0, 70.6, 54.0, 51.9, 41.7.

reactant | 1-aminopropylene | 0.186 mol, 10.6 grams | NC=CC | C3H7N
reactant | 3-phenylpropyleneoxide | 0.037 mol, 5.07 grams | C1(=CC=CC=C1)CC1CO1 | C9H10O
solvent | methanol | CO | CH4O
product | N-allyl-3-phenyl-2-hydroxypropylamine | 7.2 grams, 99% | C(C=C)NCC(CC1=CC=CC=C1)O | C12H17NO
